* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1500-3.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N001 N002 33µ
V1 IN 0 3
C1 OUT 0 220µ Rser=0.05
R3 N006 N005 100K
C2 N005 0 2000p
C3 N007 0 1000p
R8 N007 0 1Meg
D1 N002 OUT 1N5818
X§U1 IN N006 IN N001 MP_01 0 0 N002 0 N003 N004 N007 0 OUT LT1500-3
Rload OUT 0 50
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 2m startup
.lib LT1500-3.sub
.backanno
.end
